US09102614B2
Step 3: Preparation of (S)-ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate:
To a solution of ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (1 g, 2 mmol) and (R)-(+)-2-methyl-CBS-oxazaborolidine (0.11 g, 0.4 mmol) in toluene (7 mL) cooled to −20° C. was added a solution of freshly distilled catecholborane (0.29 mL, 2.6 mmol) in toluene (3 mL). After 3 h, saturated Na2CO3 (10 mL) was added, the mixture allowed to warm to room temperature and the layers separated. Following extraction with EtOAc, the combined organic layers were washed with additional saturated Na2CO3 (15 mL portions) until the washing was no longer colored and then once with saturated NH4Cl (15 mL). After drying over anhydrous MgSO4, the solution was absorbed onto silica gel in vacuo and purified by Yamazen column chromatography (10-65% EtOAc/Hex) to afford 0.61 g (61%, 98% ee) of the title compound as a colorless amorphous solid. 1H-NMR: 400 MHz, (CDCl3) δ: 7.72 (s, 1H); 7.69 (d, J=2.4 Hz, 1H); 7.50 (m, 2H); 7.37 (d, J=9.2 Hz, 1H); 7.30 (m, 2H); 7.19 (dd, J=9.2, 2.4 Hz, 1H); 5.21 (d, J=2 Hz, 1H); 4.21 (m, 2H); 3.25 (d, J=2 Hz, 1H); 2.53 (s, 3H); 1.22 (t, J=7.2 Hz, 3H).

reactant | ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 2 mmol, 1 g | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C)C(C(=O)OCC)=O | C22H16ClF3O6S
reactant | (R)-(+)-2-methyl-CBS-oxazaborolidine | 0.4 mmol, 0.11 g | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | catecholborane | 2.6 mmol, 0.29 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C)[C@@H](C(=O)OCC)O | C22H18ClF3O6S
